US08604029B2
1-Iodo-4-nitrobenzene (2.5 g, 10 mmol) was added to a solution of triethylamine (2.0 g, 20 mmol) in THF (40 mL). PdCl2 (PPh3)2 (0.14 g, 0.20 mmol), cuprous iodide (0.076 g, 0.40 mmol) and methyl propiolate (3.4 g, 40 mmol) were added and the resulting mixture was heated to reflux overnight. The reaction mixture was cooled to r.t., the solvent evaporated, and the crude compound dissolved in dichloromethane. The organics were filtered to remove insoluble material and the filtrate was washed with water, brine solution and dried over sodium sulfate. The filtrate was concentrated and the residue purified over silica gel using 15% ethyl acetate in petroleum ether as eluent to afford (4-nitrophenyl)-propynoic acid methyl ester (1.20 g, 59%) as a white solid.

reactant | 1-Iodo-4-nitrobenzene | 10 mmol, 2.5 g | IC1=CC=C(C=C1)[N+](=O)[O-] | C6H4INO2
reactant | triethylamine | 20 mmol, 2.0 g | C(C)N(CC)CC | C6H15N
reactant | methyl propiolate | 40 mmol, 3.4 g | C(C#C)(=O)OC | C4H4O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (4-nitrophenyl)-propynoic acid methyl ester | 1.20 g, 59% | COC(C#CC1=CC=C(C=C1)[N+](=O)[O-])=O | C10H7NO4
